US04242497
About 1 mol of thiourea (Component B), 1 mol of hydrated silica (Component A), 0.5 mol of sodium silicate (Component A) and 2 mols of furfural (Component C) are mixed, then heated to 60° C. to 100° C. for 20 to 120 minutes, thereby producing a poly(furfural thiourea silicate) resinous product.

reactant | thiourea | 1 mol | NC(=S)N | CH4N2S
reactant | sodium silicate | 0.5 mol | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | furfural | 2 mols | C(C1=CC=CO1)=O | C5H4O2
product | furfural thiourea silicate | [Si](O)(O)(O)O.NC(=S)N.C(C1=CC=CO1)=O | InChI=1S/C5H4O2.CH4N2S.H4O4Si/c6-4-5-2-1-3-7-5;2-1(3)4;1-5(2,3)4/h1-4H;(H4,2,3,4);1-4H
